US04344949
1,2,3,4-Tetrahydro-6,7-dimethoxy-3-isoquinolinecarboxylic Acid, Phenylmethyl Ester, Hydrochloride (S-form).
A mixture of 1,2,3,4-tetrahydro-6,7-dimethoxy-3-isoquinolinecarboxylic acid, hydrochloride (S-form) and 600 ml of benzyl alcohol was saturated with hydrogen chloride gas. The temperature rose to 45° C. The mixture was stirred at room temperature for three days. A relatively small amount of solid was filtered off and the filtrate was treated with ca 2-liters of ether to precipitate crude product; wt 37.5 g; yield, 83%. Purification was effected by treatment with excess saturated sodium bicarbonate, extraction of base into ethyl acetate and precipitation of hydrochloride salt with HCl gas. Recrystallization from methanol-ether gave pure product; mp 255°-260° C.; [α]D 23=-81.3° (1.0% MeOH); tlc (20% MeOH-CHCl3SiO2) one spot Rf 0.8.

reactant | 1,2,3,4-tetrahydro-6,7-dimethoxy-3-isoquinolinecarboxylic acid, hydrochloride | Cl.COC=1C=C2CC(NCC2=CC1OC)C(=O)O
reactant | benzyl alcohol | 600 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | hydrogen chloride | Cl | ClH
solvent | MeOH | CO | CH4O
product | 1,2,3,4-Tetrahydro-6,7-dimethoxy-3-isoquinolinecarboxylic Acid, Phenylmethyl Ester, Hydrochloride | Cl.COC=1C=C2CC(NCC2=CC1OC)C(=O)OCC1=CC=CC=C1 | InChI=1S/C19H21NO4.ClH/c1-22-17-9-14-8-16(20-11-15(14)10-18(17)23-2)19(21)24-12-13-6-4-3-5-7-13;/h3-7,9-10,16,20H,8,11-12H2,1-2H3;1H
